US07964204B2
To a stirred mixture of 5,8-dibromoisoquinoline (4.0 g. 13.9 mmol) in tetrahydrofuran (120 mL) at −78° C. under nitrogen atmosphere was added dropwise a solution of n-butyllithium (2.3 M in hexane, 7.3 mL, 16.8 mmol). The reaction mixture turned dark. After stirring for 15 minutes, the reaction, mixture was quenched by adding N,N-dimethylformamide (4.6 mL). After stirring at −78° C. for an additional 1 h, the reaction mixture was quenched with water, extracted with mixture of ethyl acetate/hexane (2:8), washed with water and brine, dried (Na2SO4), and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using hexanes/ethyl acetate as eluent to afford the 8-bromo-5-isoquinolinecarboxaldehyde (0.10 g), followed by 5-bromo-8-isoquinolinecarboxaldehyde (1.0 g) as white solids.

reactant | 5,8-dibromoisoquinoline | 13.9 mmol, 4.0 g | BrC1=C2C=CN=CC2=C(C=C1)Br | C9H5Br2N
reactant | n-butyllithium | 16.8 mmol, 2.3 M, 7.3 mL | C(CCC)[Li]
reactant | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 8-bromo-5-isoquinolinecarboxaldehyde | 0.10 g | BrC1=CC=C(C=2C=CN=CC12)C=O | C10H6BrNO
